US06875765B2
To a methylene chloride solution of 3-(4-carbamoyl-2-hydroxy-benzenesulfonylamino)-N-methoxy-N-methyl-succinamic acid tert-butyl ester at room temperature was added triphenylphosphine (0.25 g, 0.95 mmol), 2-quinolin-5-yl-ethanol (0.11 g, 0.66 mmol) and diethyl azodicarboxylate (0.17 ml, 1.12 mmol). The reaction was stirred at room temperature for 3 days. The reaction was then concentrated under reduced pressure. The crude residue was chromatographed [silica gel with a gradient of 100% ethyl acetate to 10% (1:9 NH4OH/ethanol) in ethyl acetate] to give 3-[4-carbamoyl-2-(2-quinolin-5-yl-ethoxy)-benzenesulfonylamino]-N-methoxy-N-methyl-succinamic acid tert-butyl ester as a white foam (0.27 g, 69%). 1H NMR(300 MHz, DMSO) 8.90 (d, 1H), 8.73 (d, 1H), 8.08 (s, 1H), 7.93 (d, 1H), 7.62 (m, 8H), 4.43 (m, 3H), 3.71 (m, 2H), 3.47 (bs, 3H), 2.77 (bs, 3H), 2.54 (dd, 1H), 2.34 (dd, 1H), 1.31 (s, 9H). MS(APCI) m/z 585.1 (M−H), 587.1 (M+1).

reactant | 3-(4-carbamoyl-2-hydroxy-benzenesulfonylamino)-N-methoxy-N-methyl-succinamic acid tert-butyl ester | C(C)(C)(C)OC(CC(C(=O)N(C)OC)NS(=O)(=O)C1=C(C=C(C=C1)C(N)=O)O)=O | C17H25N3O8S
reactant | triphenylphosphine | 0.95 mmol, 0.25 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | 2-quinolin-5-yl-ethanol | 0.66 mmol, 0.11 g | N1=CC=CC2=C(C=CC=C12)CCO | C11H11NO
reactant | diethyl azodicarboxylate | 1.12 mmol, 0.17 ml | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | 3-[4-carbamoyl-2-(2-quinolin-5-yl-ethoxy)-benzenesulfonylamino]-N-methoxy-N-methyl-succinamic acid tert-butyl ester | 0.27 g, 69% | C(C)(C)(C)OC(CC(C(=O)N(C)OC)NS(=O)(=O)C1=C(C=C(C=C1)C(N)=O)OCCC1=C2C=CC=NC2=CC=C1)=O | C28H34N4O8S
